US04824834
8-(3-Acetoxyphenyl)-4-hydroxypyrazolo[1,5-a]-1,3,5-triazine
A mixture of 4-hydroxy-8-(3-methoxyphenyl)pyrazolo[1,5-a]-1,3,5-triazine (242 mg), aluminum chloride (799 mg) and nitrobenzene (3 ml) is stirred at 80°-90° C. for 5 hours. To the reaction mixture is added acetyl chloride (0.12 ml). After reacting for 45 minutes, the reaction mixture is cooled and poured into ice water. The resulting precipitate is separated by filtration, washed with water and dried to give the title compound (8 mg).

reactant | 4-hydroxy-8-(3-methoxyphenyl)pyrazolo[1,5-a]-1,3,5-triazine | 242 mg | OC1=NC=NC=2N1N=CC2C2=CC(=CC=C2)OC | C12H10N4O2
reactant | aluminum chloride | 799 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | nitrobenzene | 3 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acetyl chloride | 0.12 ml | C(C)(=O)Cl | C2H3ClO
product | 8-(3-Acetoxyphenyl)-4-hydroxypyrazolo[1,5-a]-1,3,5-triazine | 8 mg | C(C)(=O)OC=1C=C(C=CC1)C=1C=NN2C1N=CN=C2O | C13H10N4O3
